US06787536B2
4-(R)-Benzyl-3-(2-(R)-{4-[5-(4-fluorophenyl)pyridin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyryl)-oxazolidin-2-one
Prepared according to the method for the preparation of 2-[4-(4-bromophenyl)-piperazine-1-sulfonylmethyl]-3-methyl-butyric acid tert-butyl ester, from 4-[5-(4-fluorophenyl)pyridin-2-yl]piperazine dihydrochloride (0.108 g) and 4-(R)-benzyl-3-(2-(R)-chlorosulfonylmethyl-3-methylbutyryl)oxazolidin-2-one (0.147 g), to yield the title compound as a pale green gum (0.167 g, 85%).

reactant | 2-[4-(4-bromophenyl)-piperazine-1-sulfonylmethyl]-3-methyl-butyric acid tert-butyl ester | C(C)(C)(C)OC(C(C(C)C)CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)Br)=O | C20H31BrN2O4S
reactant | 4-[5-(4-fluorophenyl)pyridin-2-yl]piperazine dihydrochloride | 0.108 g | Cl.Cl.FC1=CC=C(C=C1)C=1C=CC(=NC1)N1CCNCC1
reactant | 4-(R)-benzyl-3-(2-(R)-chlorosulfonylmethyl-3-methylbutyryl)oxazolidin-2-one | 0.147 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)Cl)=O | C16H20ClNO5S
product | 4-(R)-Benzyl-3-(2-(R)-{4-[5-(4-fluorophenyl)pyridin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyryl)-oxazolidin-2-one | 0.167 g, 85% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=C1)C1=CC=C(C=C1)F)=O | C31H35FN4O5S
